US03948939
9-(2-Thenoyl)-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid
To 22 ml. of phenylhydrazine in 22 ml. of ether was added 22 ml. of acetaldehyde, gentle reflux being maintained with external cooling, and the solution was allowed to stand for one-half hour. Benzene was added and the solution was dried over magnesium sulfate, filtered, dried over calcium sulfate, and evaporated to dryness under reduced pressure below 35°C. The residue was dissolved in pentane and the mixture was chilled and filtered to give 6.9 g. of acetaldehyde phenylhydrazine, a cold solution of which in 20 ml. pyridine was treated dropwise with 7.33 g. of 2-thienylcarbonyl chloride. The solution was warmed to room temperature, diluted with water and extracted with ether. The ether extract was washed with water, dilute acetic acid, water, sodium carbonate solution and water, dried and evaporated to dryness. The acetaldehyde 1-(2-thenoyl)-1-phenylhydrazone was dissolved in absolute ethyl alcohol, 15 ml. of a 4-N solution of hydrogen chloride in absolute ethyl alcohol was added, and the solution was diluted with ether, chilled and filtered and the filtrate was evaporated to dryness under reduced pressure. A solution of the crude 1-(2-thenoyl)-1-phenylhydrazine hydrochloride in acetic acid containing 5 ml. of acetic acid saturated with hydrogen chloride was added to 3.1 g. of cyclohexanone-4-carboxylic acid and the mixture was warmed on a steam bath for about two hours, cooled to room temperature, diluted with 10 ml. of water and chilled. The resulting precipitate was collected, washed with 75% acetic acid in water and dried to yield 4.7 g. of the title compound; m.p. 180°-182°C.

reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | acetaldehyde phenylhydrazine | C1(=CC=CC=C1)NN.C(C)=O
reactant | 2-thienylcarbonyl chloride | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
solvent | water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | Benzene | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
product | 9-(2-Thenoyl)-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid | C1(=CC=CS1)C(=O)N1C2=CC=CC=C2C=2CC(CCC12)C(=O)O | C18H15NO3S
